US07488844B2
(iii) Ethyl(2S)-3-(4-{2-[(2,4-difluorobenzyl)(octyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate
To a solution of {4-[(2S)-2,3-diethoxy-3-oxopropyl]phenoxy}acetic acid (0.120 g, 0.40 mmol) in methylene chloride (5.0 mL) were added N-(2,4-difluorobenzyl)-N-octylamine hydrochloride (0.165 g, 0.57 mmol), DMAP (0.054 g, 0.45 mmol) and N,N-diisopropylethylamine (0.078 mL, 0.45 mmol) followed by 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.085 g, 0.45 mmol) and the reaction mixture was stirred at room temperature overnight. The resulting solution was diluted with methylene chloride (50 mL) and the organic phase was washed with 5% HCl (3×25 mL), aqueous NaHCO3 (25 mL), and brine (25 mL), dried over anhydrous Na2SO4, and concentrated in vacuo. Purification on a prepacked column of silica gel (Isolute® SPE Column, 5 g Si/25 mL) with methanol (0-1% gradient) in methylene chloride as the eluent afforded 0.082 g (38%) of a colourless oil.

reactant | {4-[(2S)-2,3-diethoxy-3-oxopropyl]phenoxy}acetic acid | 0.40 mmol, 0.120 g | C(C)O[C@@H](CC1=CC=C(OCC(=O)O)C=C1)C(=O)OCC | C15H20O6
reactant | N-(2,4-difluorobenzyl)-N-octylamine hydrochloride | 0.57 mmol, 0.165 g | Cl.FC1=C(CNCCCCCCCC)C=CC(=C1)F
reactant | N,N-diisopropylethylamine | 0.45 mmol, 0.078 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.45 mmol, 0.085 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.45 mmol, 0.054 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | Ethyl(2S)-3-(4-{2-[(2,4-difluorobenzyl)(octyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate | 0.082 g, 38% | FC1=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)OCC)OCC)=O)CCCCCCCC)C=CC(=C1)F | C30H41F2NO5
